US05028738
A 3N aqueous solution of sodium hydroxide (20 ml; 60 mmoles) was added to 4.82 g (20 mmoles) of methyl p-methoxycarbonylphenylpyruvate, and the mixture was stirred at room temperature for 30 minutes. Then, 50 ml of tetrahydrofuran and 3.0 ml of methyl iodide were added, and the mixture was reacted at room temperature for 12 hours. After the reaction, the reaction mixture was acidified with 1N of hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a yellowish white solid of 2-oxo-3-(p-hydroxycarbonylphenyl)butanoic acid. 3N sodium hydroxide (5.5 ml) was added to the resulting solid, and the mixture was concentrated under reduced pressure, and then ether was added. Sodium 2-oxo-3-(p-hydroxycarbonylphenyl)butanoate (4.18 g; yield 88 %) which precipitated was isolated by filtration.

reactant | sodium hydroxide | 60 mmoles, 20 ml | [OH-].[Na+]
reactant | methyl p-methoxycarbonylphenylpyruvate | 20 mmoles, 4.82 g | COC(=O)C1=CC=C(C=C1)CC(C(=O)OC)=O | C12H12O5
reactant | methyl iodide | 3.0 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-oxo-3-(p-hydroxycarbonylphenyl)butanoic acid | O=C(C(=O)O)C(C)C1=CC=C(C=C1)C(=O)O | C11H10O5
